US06852446B2
Lithium 2-isopropylimidazolide (LiC6H9N2)
A slurry of 2-isopropylimidazole (4.00 g, 36.3 mmol) in toluene (40 mL) at −78° C. was treated with 17.4 mL of a 2.8 M n-BuLi (48.7 mmol) solution in hexanes. This solution mixture was then refluxed for one day during which time the slurry became orange. The slurry was then filtered over a medium glass frit and dried to give a white solid.

reactant | 2-isopropylimidazole | 36.3 mmol, 4.00 g | C(C)(C)C=1NC=CN1 | C6H10N2
reactant | n-BuLi | 48.7 mmol, 2.8 M | [Li]CCCC
solvent | toluene | 40 mL | C1(=CC=CC=C1)C | C7H8
product | Lithium 2-isopropylimidazolide | C(C)(C)C=1[N-]C=CN1.[Li+] | InChI=1S/C6H9N2.Li/c1-5(2)6-7-3-4-8-6;/h3-5H,1-2H3;/q-1;+1
